US04117238
500 g of ethylacrylate (5 mole), 92.5 g of n-butanol (1.25 mole) and 0.148 g of hydroquinone (250 ppm) are added to a 1 liter round-bottomed flask. By conducting air through by way of a 1 m vigreux column, the azeotrope is dehydrated. After cooling of the contents of the flask to 60° to 70° C., 6 g of potassium cyanide (1%) are added, and the ethylacrylate/ethanol-azeotrope is distilled-off at 77° C. at the head of the column. After 4 to 5 hours, the trans-esterification is completed. After cooling down of the flask, the potassium cyanide is filtered off and the filter residue is washed out with a little ethyl acrylate. The filtrate is processed by fractional distillation. 155 g of n-butyl acrylate = 97% are obtained.

reactant | ethylacrylate | 5 mole, 500 g | C(C)OC(C=C)=O | C5H8O2
reactant | n-butanol | 1.25 mole, 92.5 g | C(CCC)O | C4H10O
reactant | ethylacrylate ethanol | C(C)OC(C=C)=O.C(C)O
catalyst | hydroquinone | 0.148 g | C1(O)=CC=C(O)C=C1 | C6H6O2
catalyst | potassium cyanide | 6 g | [C-]#N.[K+]
product | n-butyl acrylate | 155 g | C(C=C)(=O)OCCCC | C7H12O2
